US04154837
2-Methyl-3-[3-methoxy-4-(2-hydroxy-3-isopropylamino-propoxy)-phenyl]-7-methoxy-isoquinolin-1(2H)-one was prepared analogous to Example 1b from 2-methyl-3-[3-methoxy-4-(2,3-epoxypropoxy)-phenyl]-7-methoxy-isoquinolin-1(2H)-one and isopropylamine.

reactant | 2-methyl-3-[3-methoxy-4-(2,3-epoxypropoxy)-phenyl]-7-methoxy-isoquinolin-1(2H)-one | CN1C(C2=CC(=CC=C2C=C1C1=CC(=C(C=C1)OCC1CO1)OC)OC)=O | C21H21NO5
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 2-Methyl-3-[3-methoxy-4-(2-hydroxy-3-isopropylamino-propoxy)-phenyl]-7-methoxy-isoquinolin-1(2H)-one | Yield: 77% | CN1C(C2=CC(=CC=C2C=C1C1=CC(=C(C=C1)OCC(CNC(C)C)O)OC)OC)=O | C24H30N2O5
